US06124323
4-(4-Fluorobenzyl)-4-hydroxypiperidine
A mixture of 1-benzyl-4-(4-fluorobenzyl)-4-hydroxypiperidine (520 mg, 1.7 mmol), 5% Pd/C (150 mg) and EtOH (15 mL) was shaken under H2 (30 psi) for 14 h and filtered. The filtrate was evaporated to give 350 mg (98%) of the title compound as a yellowish oil. 1H NMR (CDCl3), 1.45-1.64 (m, 6H), 2.792 (s, 2H), 2.63-2.96 (m, 4H), 6.97-7.02 (m, 2H), 7.14-7.19 (m, 2H).

reactant | 1-benzyl-4-(4-fluorobenzyl)-4-hydroxypiperidine | 1.7 mmol, 520 mg | C(C1=CC=CC=C1)N1CCC(CC1)(O)CC1=CC=C(C=C1)F | C19H22FNO
catalyst | Pd/C | 150 mg | [Pd] | Pd
solvent | EtOH | 15 mL | CCO | C2H6O
product | 4-(4-Fluorobenzyl)-4-hydroxypiperidine | 350 mg, 98% | FC1=CC=C(CC2(CCNCC2)O)C=C1 | C12H16FNO
